US09034895B2
1-Ethyl-2-methyl-3-(4-methyl-1-napthoyl)indole
To a solution of 0.20 g (1.26 mmol) of 1-ethyl-2-methylindole in 4 mL of dry dichloromethane at 0° C. under argon, was added dropwise 0.17 g (1.89 mmol) of dimethylaluminum chloride. The solution was stirred at this temperature for 45 min and then 0.39 g (1.88 mmol) of 4-methyl-1-napthoyl chloride in 6 mL of dry dichloromethane was added, and the solution stirred at 0° C. for 4 hrs. The solution was carefully quenched by the addition of 1M HCl and extracted with dichloromethane (2×20 mL). The combined organic extract were washed with a saturated solution of NaHCO3, H2O, brine, dried (MgSO4), filtered and concentrated in vacuo. The oil was purified by chromatography (ethyl acetate/petroleum ether 1:9) to afford the desired compound as an orange solid 0.16 g (40%), recrystallization from petroleum ether/ether provided white crystals, mp 136-137° C.: 1H NMR (300 MHz, CDCl3) δ 1.42 (t, J=7.3 Hz, 3H), 2.51 (s, 3H), 2.80 (s, 3H), 4.25 (q, J=7.3 Hz, 2H), 6.92-7.05 (m, 1H), 7.17-7.29 (m, 2H), 7.32-7.39 (m, 2H), 7.46-7.53 (m, 2H), 7.54-7.61 (m, 1H), 8.11 (d, J=8.3 Hz, 1H), 8.21 (d, J=8.3 Hz, 1H); 13C NMR (300 MHz, CDCl3) δ 12.3, 14.75, 19.9, 38.0, 109.2, 115.1, 121.4, 121.9, 122.2, 124.3, 125.8, 126.1, 126.3, 126.5, 127.3, 130.5, 132.9, 135.6, 136.7, 138.9, 145.1, 193.6; GC/MS (EI) m/z (rel intensity) 327 (100), 312 (80), 186 (60), 115 (20). Anal. Calcd for C23H21NO: C, 84.37; H, 6.46; N, 4.28. Found C23H21NO: C, 84.23; H, 6.48; N, 4.29.

reactant | 1-ethyl-2-methylindole | 1.26 mmol, 0.20 g | C(C)N1C(=CC2=CC=CC=C12)C | C11H13N
reactant | dimethylaluminum chloride | 1.89 mmol, 0.17 g | [Cl-].C[Al+]C
reactant | 4-methyl-1-napthoyl chloride | 1.88 mmol, 0.39 g | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-Ethyl-2-methyl-3-(4-methyl-1-napthoyl)indole | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=CC=C(C2=CC=CC=C12)C)C | C23H21NO
